### PR TITLE
[Merged by Bors] - chore: cleanup many porting notes in Combinatorics

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Combinatorics/Configuration.lean [hunk 1]
```diff
@@ -42,18 +42,15 @@ variable (P L : Type*) [Membership P L]
...
 
 instance [Finite P] : Finite (Dual P) :=
   ‹Finite P›
 
--- Porting note: was `this` instead of `h`
 instance [h : Fintype P] : Fintype (Dual P) :=
   h
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/11215): TODO: figure out if this is needed.
 set_option synthInstance.checkSynthOrder false in
```
Comment (grunweg) [inline Mathlib/Combinatorics/Configuration.lean:54]: Did you think about this/what's your opinion about this one?

File: Mathlib/Combinatorics/Quiver/Covering.lean [hunk 2]
```diff
@@ -139,7 +139,7 @@ theorem Prefunctor.symmetrifyStar (u : U) :
   erw [Equiv.eq_symm_comp]
   ext ⟨v, f | g⟩ <;>
     -- Porting note (https://github.com/leanprover-community/mathlib4/issues/10745): was `simp [Quiver.symmetrifyStar]`
-    simp only [Quiver.symmetrifyStar, Function.comp_apply] <;>
+    simp [Quiver.symmetrifyStar, Function.comp_apply] <;>
```
Comment (grunweg) [inline Mathlib/Combinatorics/Quiver/Covering.lean:142]: You're introducing a non-terminal simp now. To my naive mind, that's a regression.

File: Mathlib/Combinatorics/Additive/Energy.lean [hunk 3]
```diff
@@ -84,10 +84,7 @@ lemma mulEnergy_mono (hs : s₁ ⊆ s₂) (ht : t₁ ⊆ t₂) : Eₘ[s₁, t₁
 @[to_additive] lemma le_mulEnergy : s.card * t.card ≤ Eₘ[s, t] := by
   rw [← card_product]
   refine
-    card_le_card_of_injOn (@fun x => ((x.1, x.1), x.2, x.2)) (by
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/Energy.lean:87]: Can you benchmarking this file/check locally if this is an issue?

File: Mathlib/Combinatorics/Quiver/Subquiver.lean [hunk 4]
```diff
@@ -25,7 +25,7 @@ def WideSubquiver (V) [Quiver.{v + 1} V] :=
 
 /-- A type synonym for `V`, when thought of as a quiver having only the arrows from
 some `WideSubquiver`. -/
--- Porting note: no hasNonemptyInstance linter yet
+-- Porting note: no hasNonemptyInstance linter yet https://github.com/leanprover-community/mathlib4/issues/5171
```
Comment (grunweg) [inline Mathlib/Combinatorics/Quiver/Subquiver.lean:28]: For the record: the formatting in 20824 is slightly different, and you're removing these notes in that PR.

That said: I think this change is an improvement in any case.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have only four small questions.
maintainer delegate

**Comment by YaelDillies** [comment]
I would like to review this properly before it lands

File: Mathlib/Combinatorics/Configuration.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Combinatorics/Configuration.lean:54]: Yes, it's needed, removing it causing at error at this declaration.

File: Mathlib/Combinatorics/Quiver/Covering.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Combinatorics/Quiver/Covering.lean:142]: Oh, I'm blind, I'll fix this one.

File: Mathlib/Combinatorics/Additive/Energy.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Combinatorics/Additive/Energy.lean:87]: It was 688 heartbeats, not 882, so completely irrelevant.

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by TwoFX — APPROVED** [review]
bors r+
